US07179823B1
Sodium borohydride (378 mg) was added slowly to a mixture of 3-ethoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzaldehyde (3.37 g), tetrahydrofuran (50 ml) and methanol (50 ml) at room temperature, which was stirred for 30 minutes. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4) and concentrated to obtain 3-ethoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl alcohol (3.28 g, yield 97%) as colorless crystals. This was recrystallized from tetrahydrofuran-hexane. Melting point: 130–131° C.

reactant | Sodium borohydride | 378 mg | [BH4-].[Na+]
reactant | 3-ethoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzaldehyde | 3.37 g | C(C)OC=1C=C(C=O)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C20H19NO4
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | methanol | 50 ml | CO | CH4O
solvent | water | O | H2O
product | 3-ethoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl alcohol | 3.28 g, yield 97% | C(C)OC=1C=C(CO)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C20H21NO4
